US07612075B2
B. 2-(Benzhydrylidene-amino)-4-bromomethyl-benzonitrile.
To a solution of 2-(benzhydrylidene-amino)-4-methyl-benzonitrile (11.2 g, 37.8 mmol) in 500 mL of CCl4 is added N-bromosuccinimide (7.06 g, 39.7 mmol), and benzoyl peroxide (0.92 g, 3.8 mmol). The solution is heated to reflux for 16 hours. After this time, the solution is filtered and the organic solution is concentrated under vacuum. The residue is purified by column chromatography eluting with a gradient of 20% t-butyl ether/hexanes to 25% t-butyl ether/hexanes. The product is obtained as an oil containing a mixture of the desired monobromide, dibromide and unreacted starting material. The mixture is assayed by proton NMR and is found to have a purity between 60-75%. 1H NMR (CDCl3, 300 MHz) δ7.82 (m, 2H), 7.42 (m, 9H), 6.92 (d, 1H), 6.81 (s, 1H), 4.29 (s, 2H).

reactant | 2-(benzhydrylidene-amino)-4-methyl-benzonitrile | 37.8 mmol, 11.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1=C(C#N)C=CC(=C1)C | C21H16N2
reactant | N-bromosuccinimide | 39.7 mmol, 7.06 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 3.8 mmol, 0.92 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 500 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(Benzhydrylidene-amino)-4-bromomethyl-benzonitrile | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1=C(C#N)C=CC(=C1)CBr | C21H15BrN2
